US05753673
To a solution of 1.5 g of 3-amino-8-azabicyclo[3.2.1]octane in 50 ml of methylene chloride was dropwise added a solution of 2.7 ml of di-t-butyl dicarbonate in 5 ml of methylene chloride. The mixture was stirred at room temperature for 4 hours. The solvent was distilled off and the residue was subjected to silica gel column chromatography (chloroform:NH3-saturated methanol=40:1) to give 1.23 g of 3-amino-8-((1,1-dimethylethoxy)carbonyl)-8-azabicyclo[3.2.1]octane.

reactant | 3-amino-8-azabicyclo[3.2.1]octane | 1.5 g | NC1CC2CCC(C1)N2 | C7H14N2
reactant | di-t-butyl dicarbonate | 2.7 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-amino-8-((1,1-dimethylethoxy)carbonyl)-8-azabicyclo[3.2.1]octane | 1.23 g | NC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C12H22N2O2
